US05916914
6-(2-Bromo-ethoxy)-chromen-2-one
A mixture of 6-hydroxy-chromene-2-one, which can be synthesized in accordance with the procedure set forth by T. Harayama, K. Katsuno, H. Nishioka, M. Fujii, Y. Nishita, H. Ishii, and Y. Kaneko, Heterocycles, 1994;39:613, (3.2 g, 19.7 mmol), 1,2-dibromoethane (6.7 mL, 14.6 g, 78 mmol), and potassium carbonate (5.4 g, 39 mmol) in 150 mL of acetone is stirred at reflux for 48 hours. The cooled reaction mixture is added to 1.0 L of water and 250 mL of ethyl acetate. The mixture is filtered, and the insoluble material is washed with a small amount of additional ethyl acetate. The combined filtrates are separated, and the aqueous layer is washed several times with fresh ethyl acetate. The combined organic layers are washed with 5% aqueous sodium carbonate solution and brine, then dried (sodium sulfate), and evaporated. The residue is purified by flash chromatography (1% methanol in dichloromethane elution) to give 1.4 g (26%) of product. A sample recrystallized from ethyl acetate-hexane had melting point (mp) 101-102° C.

reactant | 6-hydroxy-chromene-2-one | OC=1C=C2C=CC(OC2=CC1)=O | C9H6O3
reactant | 1,2-dibromoethane | 19.7 mmol, 6.7 mL, 3.2 g | BrCCBr | C2H4Br2
reactant | potassium carbonate | 39 mmol, 5.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.0 L | O | H2O
solvent | acetone | 150 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 6-(2-Bromo-ethoxy)-chromen-2-one | 1.4 g, 26% | BrCCOC=1C=C2C=CC(OC2=CC1)=O | C11H9BrO3
